US08426411B2
To a solution of methyl 4-(tert-butoxycarbonylamino)bicyclo[2.2.2]octane-1-carboxylate (2.50 g, 8.82 mmol) in DMF (42 mL) at about 0° C. was added sodium hydride (60% dispersion in mineral oil, 0.706 g, 17.6 mmol). The reaction mixture was stirred for about 30 min at about 0° C. and TBAI (0.652 g, 1.76 mmol) and benzyl bromide (2.10 mL, 17.7 mmol) were added. The reaction was warmed to ambient temperature and continued to stir for about 5 h. The solvent was removed under reduced pressure and the residue was taken up in DCM (50 mL) and water (30 mL). The layers were separated and the organic phase was washed with brine (30 mL), dried over anhydrous MgSO4, filtered and concd under reduced pressure. The resulting oil was purified by silica gel chromatography eluting with a gradient of 0-30% EtOAc in heptane to give methyl 4-(benzyl(tert-butoxycarbonyl)amino)bicyclo[2.2.2]octane-1-carboxylate (2.71 g, 82%) as a clear colorless oil: LC/MS (Table 1, Method b) Rt=3.09 min; MS m/z: 374 (M+H)+.

reactant | methyl 4-(tert-butoxycarbonylamino)bicyclo[2.2.2]octane-1-carboxylate | 8.82 mmol, 2.50 g | C(C)(C)(C)OC(=O)NC12CCC(CC1)(CC2)C(=O)OC | C15H25NO4
reactant | sodium hydride | 17.6 mmol, 0.706 g | [H-].[Na+]
reactant | benzyl bromide | 17.7 mmol, 2.10 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 42 mL | CN(C)C=O | C3H7NO
catalyst | TBAI | 1.76 mmol, 0.652 g | CCCC[N+](CCCC)(CCCC)CCCC.[I-]
product | methyl 4-(benzyl(tert-butoxycarbonyl)amino)bicyclo[2.2.2]octane-1-carboxylate | 2.71 g, 82% | C(C1=CC=CC=C1)N(C12CCC(CC1)(CC2)C(=O)OC)C(=O)OC(C)(C)C | C22H31NO4
